2111-12-28 07:59:00 Physician Resident Progress Note
Chief Complaint: Abdominal Pain, Incarcerated Bowel
   24 Hour Events:
 INVASIVE VENTILATION - START [**2111-12-27**] 06:22 PM
 ARTERIAL LINE - START [**2111-12-27**] 07:00 PM
 MULTI LUMEN - START [**2111-12-27**] 07:00 PM
   placed in OR
   Intermittently hypotensive overnight, responded to IV fluid boluses
   Had a temp to 101.8 to 04:00 AM and subsequently spiked to 102.4
   UOP maintained (>70cc/hr), but became hypotensive resistant to fluid
   around 8am.
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2111-12-27**] 08:11 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2111-12-28**] 02:00 AM
   Midazolam (Versed) - [**2111-12-28**] 04:30 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  pt sedated
   Flowsheet Data as of  [**2111-12-28**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.8
C (101.8
   HR: 149 (94 - 149) bpm
   BP: 125/78(95) {67/43(49) - 174/100(128)} mmHg
   RR: 17 (0 - 21) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 51 Inch
    CVP: 9 (-3 - 12)mmHg
   Total In:
                                                                 12,159 mL
                                                                  1,195 mL
   PO:
   TF:
   IVF:
                                                                 11,784 mL
                                                                  1,195 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,460 mL
                                                                  1,160 mL
   Urine:
                                                                    200 mL
                                                                    700 mL
   NG:
                                                                    140 mL
   Stool:
   Drains:
                                                                    140 mL
                                                                    320 mL
   Balance:
                                                                 10,699 mL
                                                                     35 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 269 (269 - 288) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 101
   RSBI Deferred: No Spon Resp
   PIP: 10 cmH2O
   Plateau: 23 cmH2O
   SpO2: 98%
   ABG: 7.40/33/126/18/-2
   Ve: 4.6 L/min
   PaO2 / FiO2: 315
   Physical Examination
   GEN: intubated. Sedated
   HEENT:  MM moist, facial edema, pupils constricted but reactive
   CV: RRR, no murmurs appreciable
   PULM: CTA anteriorly
   ABD:  distended, +BS, soft, incision site CDI, JP drain with serosang
   drainage, ielial conduit with good output.
   EXT: 1+ distal pulses with 1+ tense edema.
   Neuro: moves all extremities spontaneously
   Labs / Radiology
   142 K/uL
   10.3 g/dL
   109 mg/dL
   1.2 mg/dL
   18 mEq/L
   4.2 mEq/L
   30 mg/dL
   119 mEq/L
   145 mEq/L
   27.4 %
   6.3 K/uL
        [image002.jpg]
                            [**2111-12-27**]  08:09 PM
                            [**2111-12-27**]  08:24 PM
                             [**2111-12-28**]  05:00 AM
                             [**2111-12-28**]  05:16 AM
   WBC
   7.3
   6.3
   Hct
   33.4
   27.4
   Plt
   170
   142
   Cr
   1.3
   1.2
   TCO2
   19
   21
   Glucose
   115
   109
   Other labs: PT / PTT / INR:15.5/57.9/1.3, ALT / AST:[**12-13**], Alk Phos / T
   Bili:23/1.6, Lactic Acid:1.8 mmol/L, Albumin:1.7 g/dL, LDH:143 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
   Assesment: This is a 54 yo F with spina bifida and multiple SBOs
   presents SBO and renal failure now s/p ex lap with LOA and small bowel
   resection.
    .
   Plan:
   # Fever/Hypotension:  SBP currently in the 70
s and concerning for
   sepsis.  Possible causes could be post op hemorrhage vs infection of
   abdominal origin.  Now s/p 4L of fluid since 9pm.  UOP maintained.
   WBC down to 6.  Pt on appropriate abx coverage for now with Cipro, levo
   and vanc.  ? possible anaphylactic reaction given facial edema
   -          1uRBC with crossmatch for 2^nd.
   -          Initate levophed for goal MAP >60
   -          Will give albumin x1 dose given level of 1.7 to help oncotic
   drive
   -          Blood cultures this AM
   -          Benadryl/salumedrol for possible allergic reaction
   # Hypoxic Respiratory Failure: ABGs were previously good on assist
   control, switched to pressure support trial this AM with subsequent pH
   of 7.18.  Concern that her tensely closed abdominal compartment may
   compromise her ventilation.
   -          continue to monitor respiratory status and vent settings to
   optimize ventilation
   -          repeat CXR this am
   .
   # S/P LOA, small bowel resxn for SBO:  Surgery managing.
   - pt to remain NPO with NGT
   -Follow lactate
   -Antibiotics per surgery given enterostomy->vanc/cipro/flagyl
   .
   # ARF: Improved today to 1.2.  Suspect multiple etiologues given recent
   IV contrast for CT scan on [**12-25**] and bilateral hydonephrosis on CT
   scan/US.
   -Appreciate renal and urology recs
   -Will make sure she is adequately volume rescuscitated
   -Follow UOP and if tails off inform surgery as it could be a sign of
   abdominal compression of ileal conduit
   -Follow Cr, obtain urine sample for renal team.
   ICU Care
   Nutrition: due to
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-12-27**] 07:00 PM
   Multi Lumen - [**2111-12-27**] 07:00 PM
   20 Gauge - [**2111-12-27**] 11:04 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, RSBI
   Code status: Full code
   Disposition:  ICU

2111-12-29 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2111-12-29**] 03:00 AM
 FEVER - 102.4
F - [**2111-12-28**] 08:00 AM
   - Hypotension improved over the day.  Levophed d/cd 1400 ; Continued LR
   200 cc/hr and 1 500 cc bolus @ LR 1700
   - Concern for allergic rx given swollen lips and hypotension--> d/cd
   cipro/flagyl and replaced with Zosyn, continued vanco, benadryl q6, h2
   blocker [**Hospital1 **], latex precautions
   - Surgery request to hold steroids, resusciate with PRBCs
   - Received 1 u PRBC in am and 1 u in pm;  Hct 27.4 > 31.1 (post transf
   1 U) > 23.6 > 23.6 > 27.2(post trans 1 u prbc)
   - DIC panel unremarkable - Fibrino 349, FDP 0-10, Ddimer 2392
   - still ventilated, but becoming more alkalotic
   - ABG 7.4/29/134/19 > 7.39/33/124/21 > 7.5/25/68/20
   - Urology/Nephrology following; no new recommendations
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2111-12-28**] 08:00 AM
   Ciprofloxacin - [**2111-12-28**] 09:00 AM
   Vancomycin - [**2111-12-28**] 08:17 PM
   Piperacillin/Tazobactam (Zosyn) - [**2111-12-29**] 02:01 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2111-12-28**] 05:34 PM
   Pantoprazole (Protonix) - [**2111-12-28**] 08:17 PM
   Heparin Sodium (Prophylaxis) - [**2111-12-28**] 10:00 PM
   Midazolam (Versed) - [**2111-12-29**] 03:56 AM
   Fentanyl - [**2111-12-29**] 03:56 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Pt intubated, sedated
   Flowsheet Data as of  [**2111-12-29**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 35.8
C (96.5
   HR: 57 (48 - 133) bpm
   BP: 92/49(66) {53/39(45) - 142/83(106)} mmHg
   RR: 12 (0 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
    CVP: 11 (10 - 15)mmHg
   Total In:
                                                                  8,134 mL
                                                                    458 mL
   PO:
   TF:
   IVF:
                                                                  7,409 mL
                                                                    458 mL
   Blood products:
                                                                    725 mL
   Total out:
                                                                  2,659 mL
                                                                    756 mL
   Urine:
                                                                  1,599 mL
                                                                    241 mL
   NG:
                                                                    140 mL
                                                                    280 mL
   Stool:
   Drains:
                                                                    920 mL
                                                                    235 mL
   Balance:
                                                                  5,475 mL
                                                                   -298 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 269 (269 - 269) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   SpO2: 98%
   ABG: 7.39/32/111/19/-4
   Ve: 8.1 L/min
   PaO2 / FiO2: 222
   Physical Examination
   Physical Exam
   GEN: NAD
   HEENT: MMM. Pupils
   CV:
   PULM:
   ABDM:
   EXT:
   NEURO: sedated, non-responsive.
   Labs / Radiology
   114 K/uL
   10.2 g/dL
   121 mg/dL
   0.8 mg/dL
   19 mEq/L
   3.6 mEq/L
   30 mg/dL
   114 mEq/L
   140 mEq/L
   27.1 %
   5.7 K/uL
        [image002.jpg]
                             [**2111-12-28**]  08:54 AM
                             [**2111-12-28**]  10:22 AM
                             [**2111-12-28**]  10:39 AM
                             [**2111-12-28**]  04:30 PM
                             [**2111-12-28**]  06:18 PM
                             [**2111-12-28**]  07:44 PM
                             [**2111-12-29**]  01:08 AM
                             [**2111-12-29**]  05:01 AM
                             [**2111-12-29**]  05:31 AM
                             [**2111-12-29**]  07:10 AM
   WBC
   7.7
   3.9
   4.3
   5.7
   Hct
   31.1
   23.6
   23.6
   27.2
   27.1
   Plt
   [**Telephone/Fax (3) 4056**]14
   Cr
   1.0
   0.8
   TropT
   <0.01
   TCO2
   20
   19
   21
   20
   20
   Glucose
   161
   121
   Differential-Neuts:83.0 %, Band:0.0 %, Lymph:11.0 %, Mono:5.0 %,
   Eos:0.0 %,
   Other labs: PT / PTT / INR:16.0/50.1/1.4,
    CK / CKMB / Troponin-T:439/12/<0.01,
    ALT / AST:13/23, Alk Phos / T Bili:25/3.3,
   D-dimer:2392 ng/mL,       Fibrinogen:349 mg/dL,         Lactic Acid:1.0
   mmol/L,     Albumin:2.2 g/dL,      LDH:161 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   This is a 54 yo F with spina bifida and multiple SBOs presents SBO and
   renal failure now s/p ex lap with LOA and small bowel resection.
    .
   Plan:
   # Fever/Hypotension:  required pressors yesterday.  Was maintaining MAP
   in mid 60s through the evening; received blous this am for drop to SBP
   80
s.  Fever has resolved and is now on zosyn/vanc.  ? possible
   anaphylactic reaction given facial edema
   -          1uRBC with crossmatch for 2^nd.
   -          Initate levophed for goal MAP >60
   -          Will give albumin x1 dose given level of 1.7 to help oncotic
   drive
   -          Blood cultures this AM
   -          Benadryl/salumedrol for possible allergic reaction
   # Hypoxic Respiratory Failure: ABGs were previously good on assist
   control, switched to pressure support trial this AM with subsequent pH
   of 7.18.  Concern that her tensely closed abdominal compartment may
   compromise her ventilation.
   -          continue to monitor respiratory status and vent settings to
   optimize ventilation
   -          repeat CXR this am
   .
   # S/P LOA, small bowel resxn for SBO:  Surgery managing.
   - pt to remain NPO with NGT
   -Follow lactate
   -Antibiotics per surgery given enterostomy->vanc/cipro/flagyl
   .
   # ARF: Improved today to 1.2.  Suspect multiple etiologues given recent
   IV contrast for CT scan on [**12-25**] and bilateral hydonephrosis on CT
   scan/US.
   -Appreciate renal and urology recs
   -Will make sure she is adequately volume rescuscitated
   -Follow UOP and if tails off inform surgery as it could be a sign of
   abdominal compression of ileal conduit
   -Follow Cr, obtain urine sample for renal team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-12-27**] 07:00 PM
   Multi Lumen - [**2111-12-27**] 07:00 PM
   20 Gauge - [**2111-12-27**] 11:04 PM
   Prophylaxis:
   DVT:  SC heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-12-30 07:28:00 Physician Resident Progress Note
Chief Complaint: Abdominal Pain--> small bowel obstruction
   24 Hour Events:
   - Benadryl changed to PRN
   - Renal signed off as renal failure
   - Family updated
   - Attempted to wean from sedation, but pt did not tolerate and became
   agitated.
   - MAPs down to mid 50
s overnight with mild response to fluids.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2111-12-28**] 08:00 AM
   Ciprofloxacin - [**2111-12-28**] 09:00 AM
   Vancomycin - [**2111-12-29**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2111-12-30**] 01:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2111-12-29**] 05:26 PM
   Heparin Sodium (Prophylaxis) - [**2111-12-29**] 05:26 PM
   Pantoprazole (Protonix) - [**2111-12-29**] 08:00 PM
   Fentanyl - [**2111-12-29**] 10:15 PM
   Midazolam (Versed) - [**2111-12-29**] 10:15 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  pt uncomfortable, but not alert enough to fully
   respond
   Flowsheet Data as of  [**2111-12-30**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.3
   HR: 82 (57 - 104) bpm
   BP: 92/47(65) {68/39(50) - 136/88(109)} mmHg
   RR: 4 (0 - 18) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
    CVP: 18 (9 - 18)mmHg
   Total In:
                                                                  4,717 mL
                                                                    438 mL
   PO:
   TF:
   IVF:
                                                                  4,685 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                  1,858 mL
                                                                    517 mL
   Urine:
                                                                    848 mL
                                                                    272 mL
   NG:
                                                                    280 mL
   Stool:
   Drains:
                                                                    730 mL
                                                                    245 mL
   Balance:
                                                                  2,859 mL
                                                                    -79 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   Compliance: 30.5 cmH2O/mL
   SpO2: 95%
   ABG: 7.34/39/145/22/-4
   Ve: 5.3 L/min
   PaO2 / FiO2: 290
   Physical Examination
   GEN: Intubated, mildly sedated and minimally responsive, aggitated
   HEENT: MMM, pupils reactive, conjunctival jaundice and scleral edema
   R>L
   CV: mildy tachy, no murmr
   PULM: cta anteriorly
   ABD: distended, +bs, soft, incision CDI.  JP site with serous drainage,
   ileal conduit with dark amber urine.
   EXT: 2+ edema, feet warm
   SKIN: feet with previously noted non-blanching purpuritic rash
   Labs / Radiology
   127 K/uL
   10.0 g/dL
   113 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.3 mEq/L
   29 mg/dL
   117 mEq/L
   141 mEq/L
   31
   7.3 K/uL
        [image002.jpg]
                             [**2111-12-28**]  04:30 PM
                             [**2111-12-28**]  06:18 PM
                             [**2111-12-28**]  07:44 PM
                             [**2111-12-29**]  01:08 AM
                             [**2111-12-29**]  05:01 AM
                             [**2111-12-29**]  05:31 AM
                             [**2111-12-29**]  07:10 AM
                             [**2111-12-29**]  07:53 PM
                             [**2111-12-30**]  02:55 AM
                             [**2111-12-30**]  03:29 AM
   WBC
   3.9
   4.3
   5.7
   7.3
   Hct
   23.6
   23.6
   27.2
   27.1
   28.3
   31
   Plt
   108
   110
   114
   127
   Cr
   0.8
   0.7
   TCO2
   21
   20
   20
   20
   22
   Glucose
   121
   113
   Other labs: PT / PTT / INR:13.3/48.0/1.1, CK / CKMB /
   Troponin-T:439/12/<0.01, ALT / AST:13/23, Alk Phos / T Bili:25/3.3,
   Differential-Neuts:87.3 %, Band:0.0 %, Lymph:7.1 %, Mono:5.5 %, Eos:0.1
   %, D-dimer:2392 ng/mL, Fibrinogen:349 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.2 g/dL, LDH:161 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.4
   mg/dL
   CXR [**12-30**] AM:  personal read- possible increased edema
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
   This is a 54 yo F with spina bifida and multiple SBOs presents SBO and
   renal failure now s/p ex lap with LOA and small bowel resection.
    .
   Plan:
   # Fever/Hypotension:  off pressors for 48 hours, but hypotensive last
   night; mildly responsive to fluids but now appears very volume
   overloaded.  UOP is good and does not appear to be in shocl.   No
   fevers.
   - limit additional continued hydration; blood/albumin as needed
   - continue zosyn/vanc
   # Hypoxic Respiratory Failure: continues on assist control; failed CPAP
   trial; CXR with possible increased congestion/edema.
   - continue to monitor respiratory status and vent settings to optimize
   ventilation
   - daily weaning trial
   - repeat cxr
   # S/P LOA, small bowel resxn for SBO:  Surgery managing.
   - pt to remain NPO with NGT
   - Follow lactate
   - Antibiotics as above.
   .
   # ARF: Improved today to 0.8.  Appreciate renal and urology recs
   -Will make sure she is adequately volume rescuscitated
   -Follow UOP
   - f/u renal recs
   ICU Care
   Nutrition:
   TPN without Lipids - [**2111-12-29**] 11:15 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-12-27**] 07:00 PM
   Multi Lumen - [**2111-12-27**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-12-30 09:22:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Overnight, decreased sedation and very agitated, intermittently
   hypotensive.
   -
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2111-12-28**] 08:00 AM
   Ciprofloxacin - [**2111-12-28**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2111-12-30**] 01:00 AM
   Vancomycin - [**2111-12-30**] 08:04 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2111-12-29**] 05:26 PM
   Heparin Sodium (Prophylaxis) - [**2111-12-29**] 05:26 PM
   Pantoprazole (Protonix) - [**2111-12-29**] 08:00 PM
   Midazolam (Versed) - [**2111-12-30**] 07:40 AM
   Fentanyl - [**2111-12-30**] 07:45 AM
   Other medications:
   Med List reviewed - See [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-30**] 09:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 121 (59 - 144) bpm
   BP: 124/68(89) {68/39(50) - 154/93(119)} mmHg
   RR: 10 (0 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
   CVP: 20 (9 - 20)mmHg
   Total In:
                                                                  4,717 mL
                                                                    699 mL
   PO:
   TF:
   IVF:
                                                                  4,685 mL
                                                                    331 mL
   Blood products:
   Total out:
                                                                  1,858 mL
                                                                    517 mL
   Urine:
                                                                    848 mL
                                                                    272 mL
   NG:
                                                                    280 mL
   Stool:
   Drains:
                                                                    730 mL
                                                                    245 mL
   Balance:
                                                                  2,859 mL
                                                                    182 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 36 cmH2O
   Plateau: 29 cmH2O
   Compliance: 23.4 cmH2O/mL
   SpO2: 98%
   ABG: 7.34/39/145/22/-4
   Ve: 6 L/min
   PaO2 / FiO2: 290
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   127 K/uL
   113 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.3 mEq/L
   29 mg/dL
   117 mEq/L
   141 mEq/L
   31
   7.3 K/uL
        [image002.jpg]
                             [**2111-12-28**]  04:30 PM
                             [**2111-12-28**]  06:18 PM
                             [**2111-12-28**]  07:44 PM
                             [**2111-12-29**]  01:08 AM
                             [**2111-12-29**]  05:01 AM
                             [**2111-12-29**]  05:31 AM
                             [**2111-12-29**]  07:10 AM
                             [**2111-12-29**]  07:53 PM
                             [**2111-12-30**]  02:55 AM
                             [**2111-12-30**]  03:29 AM
   WBC
   3.9
   4.3
   5.7
   7.3
   Hct
   23.6
   23.6
   27.2
   27.1
   28.3
   31
   Plt
   108
   110
   114
   127
   Cr
   0.8
   0.7
   TCO2
   21
   20
   20
   20
   22
   Glucose
   121
   113
   Other labs: PT / PTT / INR:13.3/48.0/1.1, CK / CKMB /
   Troponin-T:439/12/<0.01, ALT / AST:13/23, Alk Phos / T Bili:25/3.3,
   Differential-Neuts:87.3 %, Band:0.0 %, Lymph:7.1 %, Mono:5.5 %, Eos:0.1
   %, D-dimer:2392 ng/mL, Fibrinogen:349 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.2 g/dL, LDH:161 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
   1) Hypotension/shock - bowel ischemia
   - had some intermittent hypotension temporally related to sedation
   - Will use fentanyl for sedation to minimize
   -
   2) Respiratory Failure:
   - Pulmonary Edema secondary to fluid shifts now that shock resolved
   - Will allow auto-diuresis and plan small dose lasix after discussing
   with surgery
   - if any blood pressure problems, would give albumin but avoid
   crystalloid
   - ECHO
   3) POD #3 bowel ischemia
   -
   4)Nutrition: TPN
   5)
   ICU Care
   Nutrition:
   TPN without Lipids - [**2111-12-29**] 11:15 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-12-27**] 07:00 PM
   Multi Lumen - [**2111-12-27**] 07:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2111-12-31 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2111-12-30**] 10:17 AM
   ECHO- no evidence of cardiac dysfunction
   -heparin decreased to [**Hospital1 7**] for concern over
   DIC labs ok- haptoglobin 103, FDP 10-40, LDH 190
   -[**Last Name (un) **] stim shows good adrenal response (8-->29).
   Allergies:
   Latex
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2111-12-28**] 08:00 AM
   Ciprofloxacin - [**2111-12-28**] 09:00 AM
   Vancomycin - [**2111-12-30**] 07:34 PM
   Piperacillin/Tazobactam (Zosyn) - [**2111-12-31**] 01:26 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2111-12-30**] 07:00 PM
   Pantoprazole (Protonix) - [**2111-12-30**] 07:34 PM
   Heparin Sodium (Prophylaxis) - [**2111-12-30**] 07:34 PM
   Fentanyl - [**2111-12-31**] 04:55 AM
   Midazolam (Versed) - [**2111-12-31**] 05:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-31**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 83 (70 - 144) bpm
   BP: 105/57(75) {97/51(68) - 180/97(129)} mmHg
   RR: 16 (12 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
    CVP: 18 (11 - 21)mmHg
   Total In:
                                                                  2,116 mL
                                                                    671 mL
   PO:
   TF:
   IVF:
                                                                  1,099 mL
                                                                    317 mL
   Blood products:
   Total out:
                                                                  1,742 mL
                                                                  1,380 mL
   Urine:
                                                                  1,342 mL
                                                                    900 mL
   NG:
                                                                    165 mL
   Stool:
   Drains:
                                                                    400 mL
                                                                    315 mL
   Balance:
                                                                    374 mL
                                                                   -709 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 33 cmH2O
   Plateau: 28 cmH2O
   Compliance: 21.7 cmH2O/mL
   SpO2: 95%
   ABG: 7.32/43/108/22/-3
   Ve: 7.7 L/min
   PaO2 / FiO2: 216
   Physical Examination
   GEN: Intubated, mildly sedated and minimally responsive, aggitated
   HEENT: MMM, pupils reactive, conjunctival jaundice and scleral edema
   R>L
   CV: mildy tachy, no murmr
   PULM: cta anteriorly
   ABD: distended, +bs, soft, incision CDI.  JP site with serous drainage,
   ileal conduit with dark amber urine.
   EXT: 2+ edema, feet warm
   SKIN: feet with previously noted non-blanching purpuritic rash
   Labs / Radiology
   148 K/uL
   11.0 g/dL
   137 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.9 mEq/L
   23 mg/dL
   114 mEq/L
   143 mEq/L
   31.1 %
   8.9 K/uL
        [image002.jpg]
                             [**2111-12-29**]  05:31 AM
                             [**2111-12-29**]  07:10 AM
                             [**2111-12-29**]  07:53 PM
                             [**2111-12-30**]  02:55 AM
                             [**2111-12-30**]  03:29 AM
                             [**2111-12-30**]  12:06 PM
                             [**2111-12-30**]  03:46 PM
                             [**2111-12-30**]  04:16 PM
                             [**2111-12-31**]  04:20 AM
                             [**2111-12-31**]  04:39 AM
   WBC
   7.3
   10.2
   8.9
   Hct
   28.3
   31
   31.4
   31.1
   Plt
   127
   152
   148
   Cr
   0.7
   0.5
   TCO2
   20
   20
   20
   22
   21
   20
   23
   Glucose
   113
   137
   Other labs: PT / PTT / INR:12.3/36.4/1.0, CK / CKMB /
   Troponin-T:439/12/<0.01, ALT / AST:17/16, Alk Phos / T Bili:31/1.6,
   Differential-Neuts:87.3 %, Band:0.0 %, Lymph:7.1 %, Mono:5.5 %, Eos:0.1
   %, D-dimer:2392 ng/mL, Fibrinogen:349 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:2.2 g/dL, LDH:171 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
 .H/O ANXIETY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
   This is a 54 yo F with spina bifida and multiple SBOs presents SBO and
   renal failure now s/p ex lap with LOA and small bowel resection.
    .
   Plan:
   # Fever/Hypotension
HTN:  off pressors for 72 hours, now volume
   overloaded.  UOP is good and does not appear to be in shock.   No
   fevers; does not appear infected. Cortisol appropriate response.
   - limit additional continued hydration; blood/albumin as needed
   - continue zosyn/vanc
   # Hypoxic Respiratory Failure: continues on assist control; CXR
   yesterday with possible increased congestion/edema.
   - continue to monitor respiratory status and vent settings to optimize
   ventilation
   - daily weaning trial
   - repeat cxr
   # S/P LOA, small bowel resxn for SBO:  Surgery managing.
   - pt to remain NPO with NGT
   - Following lactate (.8)
   - Antibiotics as above.
   - Blood cultures still pending.
   .
   # ARF: resolved.  Renal signed off.
   -Follow UOP
   # elevated bilirubin/skin changes:  purpura-like changes on feet.   DIC
   labs ok- haptoglobin 103, FDP 10-40, LDH 190
   -con
t to follow.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2111-12-30**] 10:51 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-12-27**] 07:00 PM
   Multi Lumen - [**2111-12-27**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-12-31 09:27:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, blood pressure improve; had some increased airway pressures
   and wheezing as well as increased agitation
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2111-12-30**] 10:17 AM
   Allergies:
   Latex
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2111-12-31**] 01:26 AM
   Vancomycin - [**2111-12-31**] 08:21 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 300 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2111-12-30**] 07:00 PM
   Pantoprazole (Protonix) - [**2111-12-30**] 07:34 PM
   Heparin Sodium (Prophylaxis) - [**2111-12-30**] 07:34 PM
   Fentanyl - [**2111-12-31**] 04:55 AM
   Midazolam (Versed) - [**2111-12-31**] 05:08 AM
   Other medications:
   Med List Reviewed - See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable
   Flowsheet Data as of  [**2111-12-31**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.6
C (96.1
   HR: 67 (67 - 144) bpm
   BP: 116/67(86) {97/51(68) - 180/97(129)} mmHg
   RR: 20 (12 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
   CVP: 17 (11 - 21)mmHg
   Total In:
                                                                  2,116 mL
                                                                  1,049 mL
   PO:
   TF:
   IVF:
                                                                  1,099 mL
                                                                    606 mL
   Blood products:
   Total out:
                                                                  1,742 mL
                                                                  1,525 mL
   Urine:
                                                                  1,342 mL
                                                                  1,000 mL
   NG:
                                                                    165 mL
   Stool:
   Drains:
                                                                    400 mL
                                                                    360 mL
   Balance:
                                                                    374 mL
                                                                   -476 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 34 cmH2O
   Plateau: 27 cmH2O
   Compliance: 18.2 cmH2O/mL
   SpO2: 100%
   ABG: 7.32/43/108/22/-3
   Ve: 6.8 L/min
   PaO2 / FiO2: 216
   Physical Examination
   Gen: Intubated, sedated
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: wheeze
   Extremities: Right: 1+, Left: 1+
   Skin:  warm, no more discoloration
   Neurologic: sedated
   Labs / Radiology
   11.0 g/dL
   148 K/uL
   137 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.9 mEq/L
   23 mg/dL
   114 mEq/L
   143 mEq/L
   31.1 %
   8.9 K/uL
        [image002.jpg]
                             [**2111-12-29**]  05:31 AM
                             [**2111-12-29**]  07:10 AM
                             [**2111-12-29**]  07:53 PM
                             [**2111-12-30**]  02:55 AM
                             [**2111-12-30**]  03:29 AM
                             [**2111-12-30**]  12:06 PM
                             [**2111-12-30**]  03:46 PM
                             [**2111-12-30**]  04:16 PM
                             [**2111-12-31**]  04:20 AM
                             [**2111-12-31**]  04:39 AM
   WBC
   7.3
   10.2
   8.9
   Hct
   28.3
   31
   31.4
   31.1
   Plt
   127
   152
   148
   Cr
   0.7
   0.5
   TCO2
   20
   20
   20
   22
   21
   20
   23
   Glucose
   113
   137
   Other labs: PT / PTT / INR:12.3/36.4/1.0, CK / CKMB /
   Troponin-T:439/12/<0.01, ALT / AST:17/16, Alk Phos / T Bili:31/1.6,
   Differential-Neuts:87.3 %, Band:0.0 %, Lymph:7.1 %, Mono:5.5 %, Eos:0.1
   %, D-dimer:2392 ng/mL, Fibrinogen:349 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:2.2 g/dL, LDH:171 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
 .H/O ANXIETY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
   1) Respiratory Failure
   - Increased airway pressures, wheezes on exam
   - on mechanical ventilation
   Plan:
   - Repeat CXR to rule out pneumothorax
   - Diuresis as likely fluid overload
   - Continue current ventilator settings
 will switch to PS after
   diuresis and improvement in respiratory status
   2) Post-op ischemic bowel/sepsis: improving in that hypotension is now
   resolved, urine output increasing
   - allow auto-diuresis and will also give lasix
   - continue to monitor pressures/urine output
   3)
   ICU Care
   Nutrition:
   TPN without Lipids - [**2111-12-30**] 10:51 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-12-27**] 07:00 PM
   Multi Lumen - [**2111-12-27**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU care
   Total time spent: 35 minutes (patient is critically ill)

2112-01-01 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Diuresed > 2 L to lasix 20 mg  IV x1 ; - 3.9 L at MN
   - PM lytes - repleted K
   - Agitation - Continude Fentanyl/Versed gtt yesterday, 15 mg Versed
   bolus at 1300, Zyprexa 5 mg x1 ordered 1330, Xanax ordered QHS . Versed
   now off, now on Propofol
   - Vanco [**2033**] - Not drawn. Added on vanco for am trough
   - Cx data NGTD
   Allergies:
   Latex
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2111-12-31**] 08:14 PM
   Piperacillin/Tazobactam (Zosyn) - [**2112-1-1**] 02:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2111-12-31**] 09:41 AM
   Fentanyl - [**2111-12-31**] 01:15 PM
   Midazolam (Versed) - [**2111-12-31**] 01:51 PM
   Famotidine (Pepcid) - [**2111-12-31**] 03:55 PM
   Pantoprazole (Protonix) - [**2111-12-31**] 08:14 PM
   Heparin Sodium (Prophylaxis) - [**2111-12-31**] 08:14 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Negative except as noted.
   Flowsheet Data as of  [**2112-1-1**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.3
   HR: 86 (67 - 122) bpm
   BP: 99/53(70) {89/51(67) - 186/101(137)} mmHg
   RR: 20 (16 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
    CVP: 8 (8 - 17)mmHg
   Total In:
                                                                  3,074 mL
                                                                    746 mL
   PO:
   TF:
   IVF:
                                                                  1,942 mL
                                                                    399 mL
   Blood products:
   Total out:
                                                                  6,975 mL
                                                                  1,390 mL
   Urine:
                                                                  6,210 mL
                                                                    725 mL
   NG:
                                                                    165 mL
                                                                    440 mL
   Stool:
   Drains:
                                                                    600 mL
                                                                    225 mL
   Balance:
                                                                 -3,901 mL
                                                                   -644 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   SpO2: 99%
   ABG: 7.40/38/116/26/0
   Ve: 7.7 L/min
   PaO2 / FiO2: 232
   Physical Examination
   GEN: Intubated, NAD
   HEENT: MMM, pupils reactive, conjunctival jaundice and scleral edema
   R>L
   CV: mildy tachy, no murmr
   PULM: cta anteriorly
   ABD: distended, +bs, soft, incision CDI.  JP site with serous drainage,
   ileal conduit  C/D/I
   EXT: 2+ edema, feet warm
   SKIN: feet with previously noted non-blanching purpuritic rash
   Labs / Radiology
   139 K/uL
   10.1 g/dL
   112 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.8 mEq/L
   20 mg/dL
   113 mEq/L
   144 mEq/L
   28.6 %
   6.9 K/uL
        [image002.jpg]
                             [**2111-12-30**]  03:29 AM
                             [**2111-12-30**]  12:06 PM
                             [**2111-12-30**]  03:46 PM
                             [**2111-12-30**]  04:16 PM
                             [**2111-12-31**]  04:20 AM
                             [**2111-12-31**]  04:39 AM
                             [**2111-12-31**]  09:51 AM
                             [**2111-12-31**]  03:20 PM
                             [**2111-12-31**]  03:30 PM
                             [**2112-1-1**]  04:17 AM
   WBC
   10.2
   8.9
   6.9
   Hct
   31
   31.4
   31.1
   28.6
   Plt
   152
   148
   139
   Cr
   0.5
   0.5
   0.5
   TCO2
   22
   21
   20
   23
   23
   24
   Glucose
   137
   130
   112
   Other labs: PT / PTT / INR:12.3/36.4/1.0, CK / CKMB /
   Troponin-T:439/12/<0.01, ALT / AST:17/16, Alk Phos / T Bili:31/1.6,
   Differential-Neuts:87.3 %, Band:0.0 %, Lymph:7.1 %, Mono:5.5 %, Eos:0.1
   %, D-dimer:2392 ng/mL, Fibrinogen:349 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.2 g/dL, LDH:171 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 .H/O ANXIETY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
   This is a 54 yo F with spina bifida and multiple SBOs presents SBO and
   renal failure now s/p ex lap with LOA and small bowel resection.
    .
   Plan:
   # Fever/Hypotension
HTN:  off pressors, systolics consistently above
   100 over last hour.  Resolved on Abx. Negative 4 L responding well to
   Lasix.
   - limit additional continued hydration; blood/albumin as needed
   - continue zosyn/vanc
   # Hypoxic Respiratory Failure: continues on assist control.
   - continue to monitor respiratory status and vent settings to optimize
   ventilation
   - daily weaning trial
   - repeat cxr
   # S/P LOA, small bowel resxn for SBO:  Surgery managing.
   - pt to remain NPO with NGT
   - Antibiotics as above.
   - Blood cultures still pending.
   .
   # ARF: resolved.  Renal signed off.
   -Follow UOP
   # elevated bilirubin/skin changes:  purpura-like changes on feet.   DIC
   labs ok- haptoglobin 103, FDP 10-40, LDH 190
   -con
t to follow.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2111-12-31**] 05:22 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-12-27**] 07:00 PM
   Multi Lumen - [**2111-12-27**] 07:00 PM
   Prophylaxis:
   DVT: HSC
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU level care

2112-01-01 10:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Changed from versed to propofol overnight.  No new problems.  [**Name (NI) **]
   continues diuresis
   24 Hour Events:
   Allergies:
   Latex
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2112-1-1**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2112-1-1**] 09:52 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Propofol - 22.2 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2111-12-31**] 01:15 PM
   Midazolam (Versed) - [**2111-12-31**] 01:51 PM
   Famotidine (Pepcid) - [**2111-12-31**] 03:55 PM
   Pantoprazole (Protonix) - [**2111-12-31**] 08:14 PM
   Heparin Sodium (Prophylaxis) - [**2112-1-1**] 09:52 AM
   Other medications:
   Med List Reviewed - See [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-1-1**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 132 (73 - 132) bpm
   BP: 165/86(117) {89/51(67) - 186/101(137)} mmHg
   RR: 21 (18 - 33) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
   CVP: 335 (8 - 346)mmHg
   Total In:
                                                                  3,074 mL
                                                                  1,367 mL
   PO:
   TF:
   IVF:
                                                                  1,942 mL
                                                                    847 mL
   Blood products:
   Total out:
                                                                  6,975 mL
                                                                  1,845 mL
   Urine:
                                                                  6,210 mL
                                                                  1,105 mL
   NG:
                                                                    165 mL
                                                                    440 mL
   Stool:
   Drains:
                                                                    600 mL
                                                                    300 mL
   Balance:
                                                                 -3,901 mL
                                                                   -478 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: 7.40/38/116/26/0
   Ve: 8.5 L/min
   PaO2 / FiO2: 232
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.1 g/dL
   139 K/uL
   112 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.8 mEq/L
   20 mg/dL
   113 mEq/L
   144 mEq/L
   28.6 %
   6.9 K/uL
        [image002.jpg]
                             [**2111-12-30**]  03:29 AM
                             [**2111-12-30**]  12:06 PM
                             [**2111-12-30**]  03:46 PM
                             [**2111-12-30**]  04:16 PM
                             [**2111-12-31**]  04:20 AM
                             [**2111-12-31**]  04:39 AM
                             [**2111-12-31**]  09:51 AM
                             [**2111-12-31**]  03:20 PM
                             [**2111-12-31**]  03:30 PM
                             [**2112-1-1**]  04:17 AM
   WBC
   10.2
   8.9
   6.9
   Hct
   31
   31.4
   31.1
   28.6
   Plt
   152
   148
   139
   Cr
   0.5
   0.5
   0.5
   TCO2
   22
   21
   20
   23
   23
   24
   Glucose
   137
   130
   112
   Other labs: PT / PTT / INR:12.3/36.4/1.0, CK / CKMB /
   Troponin-T:439/12/<0.01, ALT / AST:17/16, Alk Phos / T Bili:31/1.6,
   Differential-Neuts:87.3 %, Band:0.0 %, Lymph:7.1 %, Mono:5.5 %, Eos:0.1
   %, D-dimer:2392 ng/mL, Fibrinogen:349 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.2 g/dL, LDH:171 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   1) Respiratory Failure
   Plan:
   - PS, decrease propofol and evaluate for potential extubation
   - If unable, continue to diurese for again tonight
   2) Shock: resolved and now hypertensive and diuresing
   Plan: continue to monitor pressures/urine output
   3) Post-operative SB resection for ischemic bowel
   4)
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2111-12-31**] 05:22 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-12-27**] 07:00 PM
   Multi Lumen - [**2111-12-27**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 (patient is critically ill)

2112-01-02 09:44:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 yo female with spina bifida admitted with SBO now  s/p ex-lap with
   removal of 3 feet necrotic bowel, ileal conduit correction.
   Major issues have included hypotension (resolved, now off pressors) and
   respiratory failure on mechanical ventilation
   24 Hour Events:
 BLOOD CULTURED - At [**2112-1-1**] 05:34 PM
   a-line
 BLOOD CULTURED - At [**2112-1-1**] 05:51 PM
   5 liters uop to lasix
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Latex
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2112-1-1**] 07:17 PM
   Vancomycin - [**2112-1-2**] 08:00 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2112-1-1**] 09:52 AM
   Furosemide (Lasix) - [**2112-1-1**] 11:06 AM
   Haloperidol (Haldol) - [**2112-1-1**] 02:37 PM
   Famotidine (Pepcid) - [**2112-1-1**] 08:03 PM
   Pantoprazole (Protonix) - [**2112-1-1**] 08:03 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-1-2**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.1
C (98.7
   HR: 117 (80 - 131) bpm
   BP: 181/96(131) {67/38(49) - 193/105(136)} mmHg
   RR: 22 (0 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
   CVP: 7 (7 - 333)mmHg
   Total In:
                                                                  2,942 mL
                                                                    589 mL
   PO:
   TF:
   IVF:
                                                                  2,014 mL
                                                                    589 mL
   Blood products:
   Total out:
                                                                  7,140 mL
                                                                  1,720 mL
   Urine:
                                                                  6,230 mL
                                                                  1,000 mL
   NG:
                                                                    440 mL
                                                                    550 mL
   Stool:
   Drains:
                                                                    470 mL
                                                                    170 mL
   Balance:
                                                                 -4,198 mL
                                                                 -1,131 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 341 (341 - 341) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 69
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 6.3 L/min
   Physical Examination
   HEENT: PERRL, orally intubated
   Lungs decreased bs
   CVRRR
   Abd surgical dressing dry and intact
   Peripheral Vascular: decreased peripheral edema
   Skin:  petechial rash on feet (unchanged)
   Neurologic: Awake, minimally interactive but when calm can follow
   simple commands
   Labs / Radiology
   10.3 g/dL
   158 K/uL
   111 mg/dL
   0.4 mg/dL
   27 mEq/L
   4.1 mEq/L
   15 mg/dL
   107 mEq/L
   141 mEq/L
   27.2 %
   10.0 K/uL
        [image002.jpg]
                             [**2111-12-30**]  03:46 PM
                             [**2111-12-30**]  04:16 PM
                             [**2111-12-31**]  04:20 AM
                             [**2111-12-31**]  04:39 AM
                             [**2111-12-31**]  09:51 AM
                             [**2111-12-31**]  03:20 PM
                             [**2111-12-31**]  03:30 PM
                             [**2112-1-1**]  04:17 AM
                             [**2112-1-1**]  09:58 PM
                             [**2112-1-2**]  05:03 AM
   WBC
   10.2
   8.9
   6.9
   9.8
   10.0
   Hct
   31.4
   31.1
   28.6
   26.5
   27.2
   Plt
   152
   148
   139
   143
   158
   Cr
   0.5
   0.5
   0.5
   0.5
   0.4
   TCO2
   20
   23
   23
   24
   Glucose
   137
   130
   112
   114
   111
   Other labs: PT / PTT / INR:12.3/36.4/1.0, CK / CKMB /
   Troponin-T:439/12/<0.01, ALT / AST:15/20, Alk Phos / T Bili:34/1.1,
   Differential-Neuts:87.3 %, Band:0.0 %, Lymph:7.1 %, Mono:5.5 %, Eos:0.1
   %, D-dimer:2392 ng/mL, Fibrinogen:349 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.2 g/dL, LDH:169 IU/L, Ca++:7.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.8
   mg/dL
   CXR:
   Assessment and Plan
 INEFFECTIVE COPING
 .H/O ANXIETY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
   Most recent attempts to extubate made difficult by anxiety,
   hypertension. Over past day have adjusted sedation meds and further
   diuresed.
   *Attempt extubation today with husband at bedside
   *Auto-diuresing, will allow fluid status to re-equilibrate
   *Pain control adequate, will re-adjust anxiety meds once pt extubated
   and alert
   *Continue Vanco/zosyn for bowels (gut organisms, hx VRE/MRSA)
   ICU Care
   Nutrition: TPN
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-12-27**] 07:00 PM
   Multi Lumen - [**2111-12-27**] 07:00 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: H2 blocker
   VAP: SBT, oral care, elevate HOB
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2112-01-02 11:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Diuresed 5L in the last 24 hours.
   Weaned from sedation; using Haldol to control of agitation with good
   results.
   Allergies:
   Latex
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2112-1-1**] 07:17 PM
   Vancomycin - [**2112-1-2**] 08:00 AM
   Piperacillin - [**2112-1-2**] 10:15 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2112-1-1**] 08:03 PM
   Pantoprazole (Protonix) - [**2112-1-1**] 08:03 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Non repsponsive
   Flowsheet Data as of  [**2112-1-2**] 04:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.4
   HR: 121 (80 - 131) bpm
   BP: 174/92(125) {67/38(49) - 193/103(138)} mmHg
   RR: 21 (7 - 26) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
    CVP: 7 (7 - 290)mmHg
   Total In:
                                                                  2,942 mL
                                                                  1,558 mL
   PO:
   TF:
   IVF:
                                                                  2,014 mL
                                                                    755 mL
   Blood products:
   Total out:
                                                                  7,140 mL
                                                                  2,540 mL
   Urine:
                                                                  6,230 mL
                                                                  1,770 mL
   NG:
                                                                    440 mL
                                                                    550 mL
   Stool:
   Drains:
                                                                    470 mL
                                                                    220 mL
   Balance:
                                                                 -4,198 mL
                                                                   -982 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 341 (341 - 341) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 69
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 6.3 L/min
   Physical Examination
   GEN: Intubated, NAD
   HEENT: MMM, pupils reactive
   CV: mildy tachy, no murmr
   PULM: cta anteriorly
   ABD: distended, +bs, soft, incision CDI.  JP site with serous drainage,
   ileal conduit  with yellow urine
   EXT: trace edema, feet warm
   SKIN: feet with previously noted non-blanching purpuritic
   discoloration.
   Labs / Radiology
   158 K/uL
   10.3 g/dL
   111 mg/dL
   0.4 mg/dL
   27 mEq/L
   4.1 mEq/L
   15 mg/dL
   107 mEq/L
   141 mEq/L
   27.2 %
   10.0 K/uL
        [image002.jpg]
                             [**2111-12-30**]  04:16 PM
                             [**2111-12-31**]  04:20 AM
                             [**2111-12-31**]  04:39 AM
                             [**2111-12-31**]  09:51 AM
                             [**2111-12-31**]  03:20 PM
                             [**2111-12-31**]  03:30 PM
                             [**2112-1-1**]  04:17 AM
                             [**2112-1-1**]  09:58 PM
                             [**2112-1-2**]  05:03 AM
                             [**2112-1-2**]  11:22 AM
   WBC
   8.9
   6.9
   9.8
   10.0
   Hct
   31.1
   28.6
   26.5
   27.2
   Plt
   148
   139
   143
   158
   Cr
   0.5
   0.5
   0.5
   0.5
   0.4
   TCO2
   20
   23
   23
   24
   25
   Glucose
   137
   130
   112
   114
   111
   Other labs: PT / PTT / INR:12.3/36.4/1.0, CK / CKMB /
   Troponin-T:439/12/<0.01, ALT / AST:15/20, Alk Phos / T Bili:34/1.1,
   Differential-Neuts:87.3 %, Band:0.0 %, Lymph:7.1 %, Mono:5.5 %, Eos:0.1
   %, D-dimer:2392 ng/mL, Fibrinogen:349 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.2 g/dL, LDH:169 IU/L, Ca++:7.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   This is a 54 yo F with spina bifida and multiple SBOs presents SBO and
   renal failure now s/p ex lap with LOA and small bowel resection.
   Plan:
   # Fever/Hypotension
HTN:  Afebrile.  Hypotension has resolved and
   bigger concern is hypertension.  Pt  negative 5 L; responding well to
   Lasix.
   - continue zosyn/vanc for abdominal flora coverage
   # Hypoxic Respiratory Failure:   limited sedation has improved
   spontaneous breathing trial; currently CMV/ASSIST/AutoFlow, last RSBI
   69.  CXR looks clear.
   - Attempt extubation today
   # S/P LOA, small bowel resxn for SBO:  Surgery managing.
   - pt to remain NPO with NGT
   - Antibiotics as above.
   # Anxiety:  pt with 20 year history of xanex use.  Have weaned versed
   as above and now using haldol.  Once extubated, can return to xanax or
   similar [**Doctor Last Name **] as needed for acute anxiety attacks.
   .
   # ARF: resolved.  Pt continues to auto-diurese
   -Follow UOP
   ICU Care
   Nutrition: TPN
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-12-27**] 07:00 PM
   Multi Lumen - [**2111-12-27**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:  PPI
   VAP: HOB elevation, Mouth care, RSBI
   Communication:  Husband
   [**Name (NI) 36**] status: Full code

2112-01-03 09:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2112-1-2**] 10:28 AM
   - extubated
   - continued to auto diurese
   - very "Scared"; required ativan, zanax and 2mg morphine
   Allergies:
   Latex
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2112-1-1**] 07:17 PM
   Piperacillin - [**2112-1-3**] 02:15 AM
   Vancomycin - [**2112-1-3**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2112-1-3**] 03:00 AM
   Morphine Sulfate - [**2112-1-3**] 04:40 AM
   Famotidine (Pepcid) - [**2112-1-3**] 08:01 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  anxious, minimal pain
   Flowsheet Data as of  [**2112-1-3**] 09:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.3
   HR: 102 (100 - 124) bpm
   BP: 146/75(102) {121/65(86) - 182/92(125)} mmHg
   RR: 17 (7 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
    CVP: 2 (2 - 11)mmHg
   Total In:
                                                                  2,528 mL
                                                                    905 mL
   PO:
   TF:
   IVF:
                                                                  1,328 mL
                                                                    443 mL
   Blood products:
   Total out:
                                                                  3,650 mL
                                                                  1,250 mL
   Urine:
                                                                  2,630 mL
                                                                  1,155 mL
   NG:
                                                                    650 mL
                                                                     50 mL
   Stool:
   Drains:
                                                                    370 mL
                                                                     45 mL
   Balance:
                                                                 -1,122 mL
                                                                   -345 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 2L
   Ventilator mode: Standby
   FiO2: 0%
   SpO2: 98%
   ABG: 7.39/53/95.[**Numeric Identifier 143**]/32/5
   PaO2 / FiO2: 192
   Physical Exam:
   GEN: Intubated, NAD
   HEENT: MMM, pupils reactive
   CV: mildy tachy, no murmr
   PULM: cta anteriorly
   ABD: distended, +bs, soft, incision CDI.  JP site with serous drainage,
   ileal conduit  with yellow urine
   EXT: trace edema, feet warm
   SKIN: feet with previously noted non-blanching purpuritic
   discoloration.
   Labs / Radiology
   211 K/uL
   10.6 g/dL
   118 mg/dL
   0.3 mg/dL
   32 mEq/L
   3.9 mEq/L
   11 mg/dL
   107 mEq/L
   143 mEq/L
   29.3 %
   11.4 K/uL
        [image002.jpg]
                             [**2111-12-31**]  09:51 AM
                             [**2111-12-31**]  03:20 PM
                             [**2111-12-31**]  03:30 PM
                             [**2112-1-1**]  04:17 AM
                             [**2112-1-1**]  09:58 PM
                             [**2112-1-2**]  05:03 AM
                             [**2112-1-2**]  11:22 AM
                             [**2112-1-2**]  04:40 PM
                             [**2112-1-3**]  03:55 AM
                             [**2112-1-3**]  06:15 AM
   WBC
   6.9
   9.8
   10.0
   11.4
   Hct
   28.6
   26.5
   27.2
   29.3
   Plt
   139
   143
   158
   211
   Cr
   0.5
   0.5
   0.5
   0.4
   0.3
   TCO2
   23
   24
   25
   30
   33
   Glucose
   130
   112
   114
   111
   118
   Other labs: PT / PTT / INR:12.9/36.1/1.1, CK / CKMB /
   Troponin-T:439/12/<0.01, ALT / AST:15/20, Alk Phos / T Bili:34/1.1,
   Differential-Neuts:80.1 %, Band:0.0 %, Lymph:11.4 %, Mono:5.2 %,
   Eos:3.0 %, D-dimer:2392 ng/mL, Fibrinogen:349 mg/dL, Lactic Acid:1.1
   mmol/L, Albumin:2.2 g/dL, LDH:169 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 .H/O ANXIETY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
   This is a 54 yo F with spina bifida and multiple SBOs presents SBO and
   renal failure now s/p ex lap with LOA and small bowel resection.
   Plan:
   # Fever/Hypotension
HTN:  Afebrile.  Hypotension has resolved and
   bigger concern is hypertension.  Pt  negative 5 L; responding well to
   Lasix.
   - continue zosyn/vanc for abdominal flora coverage
   # Hypoxic Respiratory Failure:   limited sedation has improved
   spontaneous breathing trial; currently CMV/ASSIST/AutoFlow, last RSBI
   69.  CXR looks clear.
   - Attempt extubation today
   # S/P LOA, small bowel resxn for SBO:  Surgery managing.
   - pt to remain NPO with NGT
   - Antibiotics as above.
   # Anxiety:  pt with 20 year history of xanex use.  Have weaned versed
   as above and now using haldol.  Once extubated, can return to xanax or
   similar [**Doctor Last Name **] as needed for acute anxiety attacks.
   .
   # ARF: resolved.  Pt continues to auto-diurese
   -Follow UOP
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2112-1-2**] 11:59 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-12-27**] 07:00 PM
   Multi Lumen - [**2111-12-27**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2112-01-03 09:48:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 yo female with spina bifida s/p ex-lap
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2112-1-2**] 10:28 AM
   *Extubated
   *Continued to put out good urine
   *Some anxiety overnight-- received Xanax, Ativan and morphine
   History obtained from [**Hospital 15**] Medical records, icu housestaff
   Allergies:
   Latex
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2112-1-1**] 07:17 PM
   Piperacillin - [**2112-1-3**] 02:15 AM
   Vancomycin - [**2112-1-3**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2112-1-3**] 03:00 AM
   Morphine Sulfate - [**2112-1-3**] 04:40 AM
   Famotidine (Pepcid) - [**2112-1-3**] 08:01 AM
   Other medications:
   SSI, hep SQ, protonix, pepcid, Xanax
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-1-3**] 09:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.3
   HR: 105 (100 - 124) bpm
   BP: 150/77(105) {121/65(86) - 182/92(125)} mmHg
   RR: 13 (7 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
   CVP: 2 (2 - 11)mmHg
   Total In:
                                                                  2,528 mL
                                                                    920 mL
   PO:
   TF:
   IVF:
                                                                  1,328 mL
                                                                    445 mL
   Blood products:
   Total out:
                                                                  3,650 mL
                                                                  1,250 mL
   Urine:
                                                                  2,630 mL
                                                                  1,155 mL
   NG:
                                                                    650 mL
                                                                     50 mL
   Stool:
   Drains:
                                                                    370 mL
                                                                     45 mL
   Balance:
                                                                 -1,122 mL
                                                                   -330 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   FiO2: 0%
   SpO2: 98%
   ABG: 7.39/53/95.[**Numeric Identifier 143**]/32/5
   PaO2 / FiO2: 192
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, (+)
   NGT, No(t) OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal, No(t) Absent), (S2: Normal)
   Abd: surgical dressing intact, minimal bs, soft
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Obese
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   10.6 g/dL
   211 K/uL
   118 mg/dL
   0.3 mg/dL
   32 mEq/L
   3.9 mEq/L
   11 mg/dL
   107 mEq/L
   143 mEq/L
   29.3 %
   11.4 K/uL
        [image002.jpg]
                             [**2111-12-31**]  09:51 AM
                             [**2111-12-31**]  03:20 PM
                             [**2111-12-31**]  03:30 PM
                             [**2112-1-1**]  04:17 AM
                             [**2112-1-1**]  09:58 PM
                             [**2112-1-2**]  05:03 AM
                             [**2112-1-2**]  11:22 AM
                             [**2112-1-2**]  04:40 PM
                             [**2112-1-3**]  03:55 AM
                             [**2112-1-3**]  06:15 AM
   WBC
   6.9
   9.8
   10.0
   11.4
   Hct
   28.6
   26.5
   27.2
   29.3
   Plt
   139
   143
   158
   211
   Cr
   0.5
   0.5
   0.5
   0.4
   0.3
   TCO2
   23
   24
   25
   30
   33
   Glucose
   130
   112
   114
   111
   118
   Other labs: PT / PTT / INR:12.9/36.1/1.1, CK / CKMB /
   Troponin-T:439/12/<0.01, ALT / AST:15/20, Alk Phos / T Bili:34/1.1,
   Differential-Neuts:80.1 %, Band:0.0 %, Lymph:11.4 %, Mono:5.2 %,
   Eos:3.0 %, D-dimer:2392 ng/mL, Fibrinogen:349 mg/dL, Lactic Acid:1.1
   mmol/L, Albumin:2.2 g/dL, LDH:169 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.3 mg/dL
   Fluid analysis / Other labs: 7.39/53/95 on 2 liters n.c. ABG
   Imaging: CXR
   Assessment and Plan
 INEFFECTIVE COPING
 .H/O ANXIETY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
   54 yo female with spina bifida, now POD 7 s/p ex-lap for SBO/necrotic
   bowel. Tolerated extubation well yesterday.
   1. Continue Vanco/Zosyn for bowel coverage- estimated abx length 2
   weeks but will confirm with surgery
   2. s/p ex-lap: Check KUB this morning due to decreased BS; enema
s as
   needed, continue NGT, bowel rest (on TPN for nutrtion)
   3. Anxiety: will resume pt
s outpt Xanax dose sublingually
   4. D/c a-line
   5. Dc pepcid (already on PPI)
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2112-1-2**] 11:59 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2111-12-27**] 07:00 PM
   Multi Lumen - [**2111-12-27**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin, pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Floor
   Total time spent: 30 minutes